US09290451B2
6-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridine-2-carboxylic acid [(S)-3-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-butyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-((4-fluorophenyl)(hydroxy)methyl)picolinic acid and (S)-5-methyl-α-(2-methylpropyl)-1,2,4-oxadiazole-3-methanamine hydrochloride (which was prepared from (2S)-2-[(tert-butoxycarbonyl)amino]-4-methylpentanoic acid (CAN 13139-15-6) in analogy to the procedures described in Example 38 a to e) as starting materials. MS (EI): m/e=399.2 [M+H]+.

reactant | 6-((4-fluorophenyl)(hydroxy)methyl)picolinic acid | FC1=CC=C(C=C1)C(C1=CC=CC(=N1)C(=O)O)O | C13H10FNO3
reactant | (S)-5-methyl-α-(2-methylpropyl)-1,2,4-oxadiazole-3-methanamine hydrochloride | Cl.CC1=NC(=NO1)[C@@H](N)CC(C)C
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-4-methylpentanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC(C)C | C11H21NO4
product | 6-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridine-2-carboxylic acid [(S)-3-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-butyl]-amide | CC(C[C@@H](C1=NOC(=N1)C)NC(=O)C1=NC(=CC=C1)C(O)C1=CC=C(C=C1)F)C | C21H23FN4O3
